US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-4-[(1,1-dimethylpropyl)amino]butyric acid and ethyl γ-(2,6-diethylanilino)butyrate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-[N-(p-chlorobenzoyl)-4-(1,1-dimethylpropylamino)butyryl]-4-(2,6-diethylanilino)butyric acid.

reactant | N-(p-chlorobenzoyl)-4-[(1,1-dimethylpropyl)amino]butyric acid | ClC1=CC=C(C(=O)N(CCCC(=O)O)C(CC)(C)C)C=C1 | C16H22ClNO3
reactant | ethyl γ-(2,6-diethylanilino)butyrate | C(C)C1=C(NCCCC(=O)OCC)C(=CC=C1)CC | C16H25NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-[N-(p-chlorobenzoyl)-4-(1,1-dimethylpropylamino)butyryl]-4-(2,6-diethylanilino)butyric acid | ClC1=CC=C(C(=O)N(CCCC(=O)N(C2=C(C=CC=C2CC)CC)CCCC(=O)O)C(CC)(C)C)C=C1 | C30H41ClN2O4
